US07037938B2
To a solution of tert-butyl N-[2-(4-bromophenyl)ethyl]-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate (435 mg) in 1,2-dimethoxyethane (6 ml) were added 4-methoxycarbonyl-phenyl boronic acid (224 mg), tetrakis(triphenylphosphine)-palladium (55 mg) and aqueous solution of sodium carbonate (2M, 1.0 ml), and the mixture was stirred at 80° C. for 2 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 4′-[2-[N-(tert-butoxycarbonyl)-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate (400 mg).

reactant | tert-butyl N-[2-(4-bromophenyl)ethyl]-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate | 435 mg | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@H](O)C1=CC(=CC=C1)Cl | C21H25BrClNO3
reactant | 4-methoxycarbonyl-phenyl boronic acid | 224 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 2M, 1.0 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium | 55 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 4′-[2-[N-(tert-butoxycarbonyl)-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate | 400 mg | C(C)(C)(C)OC(=O)N(C[C@H](O)C1=CC(=CC=C1)Cl)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C29H32ClNO5
